US04178449
7-Phenylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester
A mixture of 17.5 g. of 3-dimethylaminoacrylophenone and 15.52 g. of 3-amino-4-carbethoxypyrazole in 50 ml. of glacial acetic acid is refluxed for 4 hours and then evaporated. The residue is treated as described in Example 1, giving the desired product, m.p. 129°-130° C.

reactant | 3-dimethylaminoacrylophenone | CN(C=CC(=O)C1=CC=CC=C1)C | C11H13NO
reactant | 3-amino-4-carbethoxypyrazole | NC1=NNC=C1C(=O)OCC | C6H9N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Phenylpyrazolo[1,5-a]pyrimidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN2C1N=CC=C2C2=CC=CC=C2 | C15H13N3O2
